US08202873B2
1-(2,2,2-Trifluoro-ethyl)-1H-pyrazole-4-carbaldehyde
Add 1H-pyrazole-4-carbaldehyde (0.400 g, 4.16 mmol) as a solution in DMF (2 mL) dropwise to a suspension of sodium hydride (0.333 g, 8.32 mmol) in DMF (5 mL) at 0° C. Stir for 15 min. at 0° C. Add 2,2,2-trifluoroethyl-p-toluenesulfonate (1.27 g, 5.00 mmol) and DMF (3 mL) to the reaction mixture. Heat to 60° C. for 18 hr. Quench with aqueous saturated sodium bicarbonate solution and add ethyl acetate. Separate organic layer. Extract aqueous layer twice with ethyl acetate, wash combined organics with brine, dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 0:100 to 100:0 ethyl acetate:hexanes) to give the title preparation (309 mg, 42%). GC-MS: m/z=178 [M+].

reactant | 1H-pyrazole-4-carbaldehyde | 4.16 mmol, 0.400 g | N1N=CC(=C1)C=O | C4H4N2O
reactant | sodium hydride | 8.32 mmol, 0.333 g | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl-p-toluenesulfonate | 5.00 mmol, 1.27 g | FC(COS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C9H9F3O3S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(2,2,2-Trifluoro-ethyl)-1H-pyrazole-4-carbaldehyde | FC(CN1N=CC(=C1)C=O)(F)F | C6H5F3N2O
